US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-7-ethylamino-8-methyl-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
Pyridine (300 mg) and a 70% aqueous solution (150 mg) of ethylamine were added to 1-(5-amino-2,4-difluorophenyl)-7-fluoro-8-methyl-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (110 mg), and the mixture was stirred at 50° C. for 3 hours. Diethyl ether was added to the reaction mixture, followed by stirring. A supernatant liquid was removed, and solids deposited were recrystallized from N,N-dimethylformamide. The solids were collected by filtration and washed with ethanol to obtain the title compound (75 mg) as a reddish brown powder.

reactant | Pyridine | 300 mg | N1=CC=CC=C1 | C5H5N
reactant | ethylamine | C(C)N | C2H7N
reactant | 1-(5-amino-2,4-difluorophenyl)-7-fluoro-8-methyl-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 110 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)C)F)[N+](=O)[O-])=O)C(=O)O)F)F | C17H10F3N3O5
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 1-(5-Amino-2,4-difluorophenyl)-7-ethylamino-8-methyl-6-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 75 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)C)NCC)[N+](=O)[O-])=O)C(=O)O)F)F | C19H16F2N4O5
